US05679683
A mixture of 4-chlorooxazolo[5,4-g]quinazoline (0.24 g, 1.16 mmol) and 3-bromoaniline (0.25 mL, 2.33 mmol) in a THF/propan-2-ol mixture (1:1, 40 mL) containing a trace of concentrated HCl is heated under reflux for 15 min, then concentration to dryness under reduced pressure. The residue is triturated with EtOAc, and then partitioned between saturated aqueous NaHCO3 and EtOAc. Workup of the organic portion gives 4-(3-bromoanilino)oxazolo[5,4-g]quinazoline (0.18 g, 33%) as a yellow powder, mp (MeOH) 232 ° C. (dec.).

reactant | 4-chlorooxazolo[5,4-g]quinazoline | 1.16 mmol, 0.24 g | ClC1=C2C(=CC=3C=NC=NC13)OC=N2 | C9H4ClN3O
reactant | 3-bromoaniline | 2.33 mmol, 0.25 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | HCl | Cl | ClH
solvent | THF propan-2-ol | 40 mL | C1CCOC1.CC(C)O
product | 4-(3-bromoanilino)oxazolo[5,4-g]quinazoline | 0.18 g, 33% | BrC=1C=C(NC2=C3C(=CC=4C=NC=NC24)OC=N3)C=CC1 | C15H9BrN4O
